US05629325
5-(2-phenylethynyl)-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine dihydrochloride
To a solution of 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine (272 mg, 1 mmol) in 6 mL of methylene chloride was added triethylamine (0.5 mL), Pd(II) (19 mg), CuI (a catalytic amount) and 0.22 mL of phenylacetylene (2 mmol). The reaction mixture was heated at reflux for 40 hours. The solvent was removed under reduced pressure, and the free base was purified by chromatography, during with 2 to 6% methanol in methylene chloride. MS (CI/NH3) m/z 293 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ2.07 (m, 2H), 2.25 (m, 2H), 2.81 (m, 1H), 2.88 (s, 3H), 3.47 (m, 1H), 3.67 (m, 1H), 4.23 (m, 1H), 4.64 (m, 1H), 7.38 (m, 4H), 7.54 (m, 2H), 8.28 (m, 1H), 8.42 (m, 1H). The salt was prepared by treatment with HCl in ether, as described above to give 90 mg of the title compound. mp 190°-192° C. MS (CI/NH3) m/z 293 (M+H)+. 1H NMR (D2O, 300 MHz) δ8.39 (d, J=1.5, 1H), 8.30 (d, J=2.6, 1H), 7.65 (m, 3H), 7.48 (m, 3H), 4.54 (dd, J=3.3, 11.0, 1H), 4.38 (dd, J=5.9, 11.4, 1H), 3.94 (br, 1H), 3.26 (br, 1H), 3.05 (s, 3H), 2.41 (m, 1H), 21.4 (m, 1H), 2.09 (m, 2H). Anal. Calcd for C19H20N2O·2.2 HCl: C, 61.25; H, 6.01; N, 7.52. Found: C, 61.14; H, 5.84; N, 7.52. [α]25D =-10.00° (c 0.22, MeOH).

reactant | 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine | 1 mmol, 272 mg | BrC=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C11H15BrN2O
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | phenylacetylene | 2 mmol, 0.22 mL | C1(=CC=CC=C1)C#C | C8H6
reactant | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
catalyst | CuI | [Cu]I
product | 5-(2-phenylethynyl)-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine dihydrochloride | 90 mg | Cl.Cl.C1(=CC=CC=C1)C#CC=1C=C(C=NC1)OC[C@H]1N(CCC1)C | InChI=1S/C19H20N2O.2ClH/c1-21-11-5-8-18(21)15-22-19-12-17(13-20-14-19)10-9-16-6-3-2-4-7-16;;/h2-4,6-7,12-14,18H,5,8,11,15H2,1H3;2*1H/t18-;;/m0../s1
